US05703096
7(a) 5-{4-[2-(2-Naphthylmethyleneaminooxy)ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 430 mg of 2-(2-naphthylmethyleneaminooxy) ethanol (prepared as described in Preparation 7), 716 mg of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 525 mg of triphenylphosphine and 348 mg of diethyl azodicarboxylate, 712 mg of the title compound were obtained as a foam-like solid.

reactant | 2-(2-naphthylmethyleneaminooxy) ethanol | 430 mg | C1=C(C=CC2=CC=CC=C12)C=NOCCO | C13H13NO2
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 716 mg | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 348 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-{4-[2-(2-Naphthylmethyleneaminooxy)ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione | 712 mg | C1=C(C=CC2=CC=CC=C12)C=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C42H34N2O4S
